US04616025
3.65 g (23.5 moles) of cyanimino-dithiocarbonic acid dimethylester (purity: 94%) and 5.91 (30 moles) of N-(4-methoxybenzyl)-cysteamine are boiled in 30 ml of ethanol until the evolution of methyl mercaptan terminates. The reaction mixture is evaporated and the crystalline residue is recrystallized from 15 ml of isopropanol. 5.35 g (92%) of 2-cyanimino-3-(4-methoxybenzyl)-thiazolidine are obtained, melting at 99° to 102° C.

reactant | cyanimino-dithiocarbonic acid dimethylester | 23.5 moles, 3.65 g | CS(C(OC)=S)=NC#N | C4H6N2OS2
reactant | N-(4-methoxybenzyl)-cysteamine | COC1=CC=C(CNCCS)C=C1 | C10H15NOS
reactant | methyl mercaptan | CS | CH4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-cyanimino-3-(4-methoxybenzyl)-thiazolidine | 5.35 g, 92% | C(#N)N=C1SCCN1CC1=CC=C(C=C1)OC | C12H13N3OS
